US09126993B2
1-azabicyclo[2.2.2]oct-3-yl[2-(6-fluorobiphenyl-3-yl)propan-2-yl]carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate (750 mg, 1.95 mmol), phenyl boronic acid (418 mg, 4.87 mmol) and palladium (II) acetate gave the title compound as a white solid (195 mg, 29%). 1H NMR (400 MHz, CDCl3) δ 7.49 (s, 2H), 7.46-7.38 (m, 3H), 7.35 (dd, J=4.3, 11.7 Hz, 2H), 7.08 (dd, J=8.6, 10.1 Hz, 1H), 5.10 (s, 1H), 4.60 (s, 1H), 3.33-2.10 (m, 6H), 1.67 (d, J=7.9 Hz, 6H), 1.67 (m, 5H) ppm. 13C NMR (100 MHz, CDCl3) δ 159.9, 157.4, 136.2, 129.3, 129.0, 128.7, 127.9, 127.6, 125.7, 125.6, 71.0, 66.1, 55.7, 55.1, 47.5, 46.6, 29.9, 29.6, 25.5, 24.5, 19.5, 15.5 ppm. Purity: 98% UPLCMS (210 nm); retention time 0.95 min; (M+1) 382.9. Anal. Calcd. for C23H27FN2O2.0.29 (CHCl3): C, 67.08; H, 6.60; N, 6.72. Found: C, 67.09; H, 6.95; N, 6.37.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate | 1.95 mmol, 750 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=C(C=C2)F)Br)=O | C17H22BrFN2O2
reactant | phenyl boronic acid | 4.87 mmol, 418 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-azabicyclo[2.2.2]oct-3-yl[2-(6-fluorobiphenyl-3-yl)propan-2-yl]carbamate | 195 mg, 29% | N12CC(C(CC1)CC2)OC(NC(C)(C)C=2C=C(C(=CC2)F)C2=CC=CC=C2)=O | C23H27FN2O2
